US09108903B2
A solution of 2-fluoro-5-(trifluoromethyl)benzoyl chloride (2.98 mL, 19.72 mmol) in dichloromethane (22.3 mL) was added drop-wise to a mixture of methyl 5-aminopyridine-2-carboxylate (3.0 g, 19.72 mmol), pyridine (4.80 mL, 59.16 mmol) and dichloromethane (89.4 mL) at 0° C. The mixture was removed from the ice bath after 1.5 hours and was stirred at room temperature for 0.5 hours. The mixture was poured into 1N HCl (50 mL) and dichloromethane (50 mL). The layers were separated and the organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The product was slurried in hexanes to remove impurities. The solid was isolated by filtration rinsing with hexanes to yield methyl 5-[[2-fluoro-5-(trifluoromethyl)benzoyl]amino]pyridine-2-carboxylate (5.16 g, 76%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 11.18 (s, 1H), 8.95 (d, J=2.5 Hz, 1H), 8.38 (dd, J=8.6, 2.5 Hz, 1H), 8.16 (dd, J=6.1, 2.4 Hz, 1H), 8.13 (d, J=8.6 Hz, 1H), 8.09-7.98 (m, 1H), 7.67 (t, J=9.2 Hz, 1H), 3.88 (s, 3H) ppm. ESI-MS m/z calc. 342.06, found 343.2 (M+1)+; Retention time: 1.54 minutes (3 minutes run).

reactant | 2-fluoro-5-(trifluoromethyl)benzoyl chloride | 19.72 mmol, 2.98 mL | FC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3ClF4O
reactant | methyl 5-aminopyridine-2-carboxylate | 19.72 mmol, 3.0 g | NC=1C=CC(=NC1)C(=O)OC | C7H8N2O2
reactant | pyridine | 59.16 mmol, 4.80 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 22.3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 89.4 mL | ClCCl | CH2Cl2
product | methyl 5-[[2-fluoro-5-(trifluoromethyl)benzoyl]amino]pyridine-2-carboxylate | 5.16 g, 76% | FC1=C(C(=O)NC=2C=CC(=NC2)C(=O)OC)C=C(C=C1)C(F)(F)F | C15H10F4N2O3
